US07202364B2
(a)(ii) N,N-Dimethyl-5-cyclopropyl-2-[2′-fluoro-4′-(4-fluorophenyl)anilino]phenylacetamide
A mixture of N,N-dimethyl-2-bromo-5-cyclopropylphenylacetamide (1.0 g), 2-fluoro-4-(4-fluorophenyl)aniline (1.5 g), K2CO3 (490 mg), KI (590 mg), Cu (113 mg), CuI (337 mg) in xylenes (10 mL) is heated to reflux for 48 hours. After cooling, the reaction is filtered through silica gel and the filtrate concentrated to a brown oil. The oil is purified by flash chromatography using 10%, then 20%, then 30%, then 40% EtOAc in hexane to give the title product as a foam.

reactant | N,N-dimethyl-2-bromo-5-cyclopropylphenylacetamide | 1.0 g | CN(C(CC1=C(C=CC(=C1)C1CC1)Br)=O)C | C13H16BrNO
reactant | 2-fluoro-4-(4-fluorophenyl)aniline | 1.5 g | FC1=C(N)C=CC(=C1)C1=CC=C(C=C1)F | C12H9F2N
reactant | K2CO3 | 490 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | CuI | 337 mg | [Cu]I
product | N,N-Dimethyl-5-cyclopropyl-2-[2′-fluoro-4′-(4-fluorophenyl)anilino]phenylacetamide | CN(C(CC1=C(C=CC(=C1)C1CC1)NC1=C(C=C(C=C1)C1=CC=C(C=C1)F)F)=O)C | C25H24F2N2O
